US04372953
3-(1-Methyl-1,2,3,4-tetrazol-5-yl)thiopropylamine (1.5 g) is dissolved in ethanol (5 ml), and thereto is added dropwise a solution of methyl isothiocyanate (0.8 g) in ethanol (5 ml) with stirring under ice-cooling, and the mixture is refluxed for 1 hour. Ethanol is distilled off, and then the residue is purified by column chromatography (Kieselgel 60), followed by eluting with chloroform-methanol (50:1) to give 1-[3-(1-methyl-1,2,3,4-tetrazol-5-yl)thiopropyl]-3-methylthiourea (0.7 g) which is recrystallized from ethanol-ligroin, pale yellow granules, m.p. 99°-101° C.

reactant | 3-(1-Methyl-1,2,3,4-tetrazol-5-yl)thiopropylamine | 1.5 g | CN1N=NN=C1SCCCN | C5H11N5S
reactant | methyl isothiocyanate | 0.8 g | CN=C=S | C2H3NS
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-[3-(1-methyl-1,2,3,4-tetrazol-5-yl)thiopropyl]-3-methylthiourea | 0.7 g | CN1N=NN=C1SCCCNC(=S)NC | C7H14N6S2
